US04029787
4-(4-Methylpiperazine-1-yl)-3-methylsulfamoylbenzoic acid-hydrochloride
250 Grams of 4-chloro-3-methylsulfamoylbenzoic acid (1.0 mole) were stirred with 0.3 l of N-methylpiperazine for 4 hours at 130° C. When the hot reaction solution was introduced into 2 l of 2N HCl, the final product precipitated immediately in a crystalline form. The crude product was purified by recrystallization from a 2:2:1 mixture of ethanol/water/dimethylformamide.

reactant | 4-chloro-3-methylsulfamoylbenzoic acid | 1.0 mole | ClC1=C(C=C(C(=O)O)C=C1)S(NC)(=O)=O | C8H8ClNO4S
reactant | N-methylpiperazine | 0.3 l | CN1CCNCC1 | C5H12N2
reactant | HCl | 2N, 2 l | Cl | ClH
product | 4-(4-Methylpiperazine-1-yl)-3-methylsulfamoylbenzoic acid-hydrochloride | Cl.CN1CCN(CC1)C1=C(C=C(C(=O)O)C=C1)S(NC)(=O)=O | InChI=1S/C13H19N3O4S.ClH/c1-14-21(19,20)12-9-10(13(17)18)3-4-11(12)16-7-5-15(2)6-8-16;/h3-4,9,14H,5-8H2,1-2H3,(H,17,18);1H
